US08604034B2
10a-(4-chlorophenyl)-8-(hydroxymethyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (26 mg, 0.061 mmol) in CH2Cl2 (50 mL) was added MnO2 (26.5 mg, 0.30 mmol) and the reaction mixture was heated at 50° C. for 18 h. LCMS analysis after this time showed complete conversion of the starting material alcohol to the target aldehyde. The reaction mixture was filtered twice with a syringe filter and the filtrate was concentrated in vacuo to give 10a-(4-chlorophenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-5-oxo-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazine-8-carbaldehyde as a white solid (24 mg, yield 92%) The crude product was used in the next step without further purification. ESI-MI m/z [M+H]+ 425.1.

reactant | 10a-(4-chlorophenyl)-8-(hydroxymethyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.061 mmol, 26 mg | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)CO)=O)CCN2C(=O)C=2C(=NOC2)C | C21H19ClN4O4
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 0.30 mmol, 26.5 mg | O=[Mn]=O
product | 10a-(4-chlorophenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-5-oxo-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazine-8-carbaldehyde | 24 mg, yield 92% | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)C=O)=O)CCN2C(=O)C=2C(=NOC2)C | C21H17ClN4O4
